### PR TITLE
[Merged by Bors] - feat: weight space decomposition of Lie modules

### PR DESCRIPTION
**Pull request by ocfnash**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Algebra/Basic.lean [hunk 1]
```diff
@@ -363,6 +363,12 @@ theorem commutes (r : R) (x : A) : algebraMap R A r * x = x * algebraMap R A r :
   Algebra.commutes' r x
 #align algebra.commutes Algebra.commutes
 
+lemma commute_algebraMap_left (r : R) (x : A) : Commute (algebraMap R A r) x :=
+  Algebra.commutes r x
+
+lemma commute_algebraMap_right (r : R) (x : A) : Commute x (algebraMap R A r) :=
+  (Algebra.commutes r x).symm
```
Comment (eric-wieser) [inline Mathlib/Algebra/Algebra/Basic.lean:370]: Thanks, I've wanted these for a while!

File: Mathlib/Data/Set/Function.lean [hunk 2]
```diff
@@ -876,6 +876,17 @@ theorem surjOn_iff_surjective : SurjOn f s univ ↔ Surjective (s.restrict f) :=
     ⟨a, as, e⟩⟩
 #align set.surj_on_iff_surjective Set.surjOn_iff_surjective
 
+@[simp]
+theorem surjective_mapsTo_restrict_iff {h : MapsTo f s t} :
```
Comment (eric-wieser) [inline Mathlib/Data/Set/Function.lean:880]:
```suggestion
theorem MapsTo.restrict_surjective_iff (h : MapsTo f s t) :
```
since `_surjective` is typically a suffix

File: Mathlib/LinearAlgebra/FiniteDimensional.lean [hunk 3]
```diff
@@ -922,6 +922,13 @@ theorem injective_iff_surjective [FiniteDimensional K V] {f : V →ₗ[K] V} :
         this).injective⟩
 #align linear_map.injective_iff_surjective LinearMap.injective_iff_surjective
 
+lemma injOn_iff_surjOn {p : Submodule K V} [FiniteDimensional K p]
+    {f : V →ₗ[K] V} (h : ∀ x ∈ p, f x ∈ p) :
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/FiniteDimensional.lean:926]: This is defeq, but possibly easier to work with at the caller:
```suggestion
    {f : V →ₗ[K] V} (h : p \le p.comap f) :
```

File: Mathlib/LinearAlgebra/DFinsupp.lean [hunk 4]
```diff
@@ -337,20 +337,38 @@ theorem biSup_eq_range_dfinsupp_lsum (p : ι → Prop) [DecidablePred p] (S : ι
...
+  rw [mem_iSup_iff_exists_dfinsupp']
+  constructor
+  · rintro ⟨f, rfl⟩
+    exact ⟨⟨f.support, fun i ↦ (f i : N), by simp⟩, by simp, rfl⟩
+  · rintro ⟨f, hf, rfl⟩
+    refine ⟨DFinsupp.mk f.support <| fun i ↦ ⟨f i, hf i⟩, Finset.sum_congr ?_ fun i hi ↦ ?_⟩
+    · ext; simp
+    · simp only [Finsupp.mem_support_iff, ne_eq] at hi
+      simp [hi]
+
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/DFinsupp.lean:371]: I'm pretty sure there's a linear equivalence you could use with `Surjective.exists` instead here.

File: Mathlib/LinearAlgebra/Eigenspace/Basic.lean [hunk 5]
```diff
@@ -379,13 +379,73 @@ theorem generalizedEigenspace_le_generalizedEigenspace_finrank [FiniteDimensiona
...
+
+lemma disjoint_iSup_generalizedEigenspace [NoZeroSMulDivisors R M] [IsReduced R]
+    (f : End R M) {μ₁ μ₂ : R} (hμ : μ₁ ≠ μ₂) :
+    Disjoint (⨆ k, f.generalizedEigenspace μ₁ k) (⨆ k, f.generalizedEigenspace μ₂ k) := by
+  simp_rw [(f.generalizedEigenspace μ₁).mono.directed_le.disjoint_iSup_left,
+    (f.generalizedEigenspace μ₂).mono.directed_le.disjoint_iSup_right]
+  exact disjoint_generalizedEigenspace f hμ
+
+theorem independent_generalizedEigenspace [NoZeroSMulDivisors R M] [IsReduced R] (f : End R M) :
+    CompleteLattice.Independent (fun μ ↦ ⨆ k, f.generalizedEigenspace μ k) := by
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Eigenspace/Basic.lean:446]: Instead of showing `Independent` and `disjoint`, can you go straight to showing `DirectSum.Decomposition`? That gives you the other results for free, IIRC.

Comment (ocfnash) [reply Mathlib/LinearAlgebra/Eigenspace/Basic.lean:446]: I do plan to use the direct sum API once I've established that I have a family of independent, spanning submodules but I think that has to come later.

However you're right that it's silly to prove pairwise disjointness and then independence (in view of `Independent.pairwiseDisjoint`). Unless I need pairwise disjointness to prove independence I will be removing it.

Anyway thanks for all the remarks, especially given this is still WIP. I will address your other remarks (and split this into several PRs) once I've closed the final sorry.

File: Mathlib/Algebra/Lie/Weights/Basic.lean [hunk 6]
```diff
@@ -177,6 +177,10 @@ theorem mem_weightSpace (χ : L → R) (m : M) :
     m ∈ weightSpace M χ ↔ ∀ x, ∃ k : ℕ, ((toEndomorphism R L M x - χ x • ↑1) ^ k) m = 0 := by
   simp [weightSpace, mem_weightSpaceOf]
 
+lemma weightSpace_le_weightSpaceOf (x : L) (χ : L → R) :
+    weightSpace M χ ≤ weightSpaceOf M (χ x) x := by
+  rw [weightSpace]; exact iInf_le _ x
```
[the remark this answers is not in the document]
Comment (ocfnash) [reply Mathlib/Algebra/Lie/Weights/Basic.lean]: It's not needed and I've dropped it.

File: Mathlib/LinearAlgebra/FiniteDimensional.lean (hunk 3 above)
Comment (ocfnash) [reply Mathlib/LinearAlgebra/FiniteDimensional.lean:926]: I was tempted to use this spelling but I opted to follow that of [LinearMap.restrict](https://leanprover-community.github.io/mathlib4_docs/Mathlib/LinearAlgebra/Basic.html#LinearMap.restrict). I don't think it matters where I currently use it.

File: Mathlib/LinearAlgebra/DFinsupp.lean (hunk 4 above)
Comment (ocfnash) [reply Mathlib/LinearAlgebra/DFinsupp.lean]: I don't see anything convenient but I've golfed this down to a 7-line proof if that helps!

File: Mathlib/LinearAlgebra/Eigenspace/Basic.lean (hunk 5 above)
Comment (ocfnash) [reply Mathlib/LinearAlgebra/Eigenspace/Basic.lean:345]: It's easy enough to write down an inverse (indeed this is implicit in my proof) but I think I've taken the easiest route. Note that in general we're proving independence for any endomorphism, not just triangularisable ones, so if I wanted to sue the `DirectSum` machinery here I'd have to be talking about a direct sum of `⨆ μ, ⨆ k, f.generalizedEigenspace μ k` (and I'd have to restrict `f` to this) rather than `M`.

**Comment by jcommelin** [comment]
Thanks :tada:

bors merge
